US06552061B1
L-serine (3.6 g) was dissolved in 17 ml of a 2N sodium hydroxide aqueous solution. To the solution were then added 3.6 ml of salicylaldehyde and 0.4 g of sodium boron hydride in this order. After the mixture was stirred for 1 hour, 3.6 ml of salicylaldehyde and 0.4 g of sodium boron hydride were added thereto again. After the resulting mixture was stirred overnight at room temperature, the insoluble matter was separated through filtration, and the filtrate was extracted with diethyl ether. The extract was adjusted to a pH of 7 with hydrochloric acid to obtain 4.8 g of N-(2-hydroxybenzyl)-L-serine. To 300 mg of the resulting N-(2-hydroxybenzyl)-L-serine were added 30 ml of ethanol to which a hydrogen chloride gas had been blown to saturation. The mixture was stirred overnight. The reaction solution was concentrated, and the resulting oil was purified through HPLC using Inertcil ODS-3 column (supplied by GL Science) in a high performance liquid chromatography (supplied by Hitachi) to obtain 114 mg of N-(2-hydroxybenzyl)-L-serine ethyl ester. Various N-(2-hydroxybenzyl) amino acid alkyl esters were obtained in the same manner. With respect to the novel compounds undescribed in the literature among these compounds, the results of the measurement of the mass spectrum are shown in Table 1.

reactant | N-(2-hydroxybenzyl)-L-serine | 300 mg | OC1=C(CN[C@@H](CO)C(=O)O)C=CC=C1 | C10H13NO4
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | N-(2-hydroxybenzyl)-L-serine ethyl ester | 114 mg | C(C)OC([C@@H](NCC1=C(C=CC=C1)O)CO)=O | C12H17NO4
